US09163021B2
(R) and (S)-(5-bromopyridin-3-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone
To a solution of 1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-3-iodo-1H-pyrrolo[3,2-c]pyridine (Preparation 55, 16 g, 38.6 mmol) in THF (340 mL) was added iPrMgCl (23.2 mL, 46.3 mmol, 2M solution in THF) dropwise at 0° C. After stirring at this temperature for 1 hour, a solution of 5-bromo-N-methoxy-N-methylnicotinamide (11.4 g, 46.3 mmol) in THF (40 mL) was added slowly to the reaction. The reaction was warmed at room temperature and stirred for 18 hours. The reaction was quenched by the addition of water (200 mL) and the solvents removed in vacuo. The residue was diluted with water (400 mL), extracted into DCM:MeOH (95:5, 200 mL)) five times, the organic layers collected, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with a gradient of 10-50% EtOAc in DCM to afford the title compound (18.3 g, 46.5%).

reactant | 1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-3-iodo-1H-pyrrolo[3,2-c]pyridine | 38.6 mmol, 16 g | [Si](C)(C)(C(C)(C)C)OCC(C)N1C=C(C=2C=NC=CC21)I | C16H25IN2OSi
reactant | iPrMgCl | 46.3 mmol, 2M, 23.2 mL | C(C)(C)[Mg]Cl
reactant | 5-bromo-N-methoxy-N-methylnicotinamide | 46.3 mmol, 11.4 g | BrC=1C=NC=C(C(=O)N(C)OC)C1 | C8H9BrN2O2
solvent | THF | 340 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (S)-(5-bromopyridin-3-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | 18.3 g, 46.5% | BrC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2)[C@H](CO[Si](C)(C)C(C)(C)C)C | C22H28BrN3O2Si
